US07407968B2
2-[[[4-[[Bis(2,2,2-trifluoroethyl)amino]carbonyl]-2-nitrophenyl]amino]methyl]-(2R)-1-pyrrolidinecarboxylic acid-1,1-dimethylethyl ester
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (157 mg, 0.450 mmol) and (R)-2-aminomethyl-1-Boc-pyrrolidine (100 mg, 0.495 mmol) in 3 mL of EtOH containing Et3N (0.095 mL, 0.559 mmol). The product was purified by flash chromatography on silica gel using 3:1/hexanes:EtOAc as eluent. Yield: 232 mg (98%); 1H NMR (CDCl3) 1.47 (brs, 9H), 1.83 (m, 1H), 1.90 (m, 2H), 2.03 (m, 1H), 3.31 (m, 1H), 3.37 (m, 2H), 3.62 (m, 1H), 4.09 (m, 2H), 4.24 (m, 6H), 7.26 (m, 1H), 7.50 (m, 1H), 8.27 (s, 1H), 8.55 (brs, 1H); MS (ESI) 529.38 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.450 mmol, 157 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | (R)-2-aminomethyl-1-Boc-pyrrolidine | 0.495 mmol, 100 mg | NC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | Et3N | 0.559 mmol, 0.095 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-[[[4-[[Bis(2,2,2-trifluoroethyl)amino]carbonyl]-2-nitrophenyl]amino]methyl]-(2R)-1-pyrrolidinecarboxylic acid-1,1-dimethylethyl ester | CC(C)(C)OC(=O)N1[C@H](CCC1)CNC1=C(C=C(C=C1)C(=O)N(CC(F)(F)F)CC(F)(F)F)[N+](=O)[O-] | C21H26F6N4O5
